US05663165
(a) Ethyl 2-aminobutyrate hydrochloride
Thionyl chloride (1.25 moles) was added to a solution of 2-aminobutyric acid (1 mole) in SD12A3 (95% ethanol/5% toluene) at a temperature of <5° C. When addition was complete, the mixture was stirred at 27° C. for 16 hours and the resulting precipitate filtered off and washed with methyl t-butyl ether to give the desired product as a white solid (97% yield).

reactant | Thionyl chloride | 1.25 moles | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminobutyric acid | 1 mole | NC(C(=O)O)CC | C4H9NO2
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 2-aminobutyrate hydrochloride | 97% yield | Cl.NC(C(=O)OCC)CC | InChI=1S/C6H13NO2.ClH/c1-3-5(7)6(8)9-4-2;/h5H,3-4,7H2,1-2H3;1H
